US03981928
To 2.1 gs. (0.02 m.) of 2-methylpyridine, cooled to 0°-5°C., was added dropwise with stirring 4.2 g. of trifluoroacetic anhydride. Then 4.72 g. of perfluoro-tertiarybutyl alcohol was added to the above mixture. Stirring was continued at room temperature for 48 hours. Distillation of the reaction mixture gave perfluoro-tertiary-butyl perfluoroacetate boiling at 57°-58°C. at 740 mm. Infrared spectroscopy of the sample showed ester absorption at 5.4μ. This compound is useful as a low boiling inert heat exchange liquid.

reactant | 2-methylpyridine | CC1=NC=CC=C1 | C6H7N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | perfluoro-tertiarybutyl alcohol | FC(C(C(F)(F)F)(C(F)(F)F)O)(F)F | C4HF9O
product | perfluoro-tertiary-butyl perfluoroacetate | FC(C(=O)OC(C(F)(F)F)(C(F)(F)F)C(F)(F)F)(F)F | C6F12O2
